US04424371
Thionyl chloride (1,000 g, 8.4 m) was then added to the 2-chloro-4-nitrobenzamide (200 g, 1 m) while the mixture was warmed. After addition, the mixture was refluxed for approximately three hours. The excess thionyl chloride was removed by distillation leaving a reaction mixture residue. Benzene (500 ml) was added to the cold reaction mixture residue to extract the reaction product. The extract was washed with diluted sodium hydroxide solution and water until neutralized and then dried over anhydrous sodium sulfate. The benzene solvent was distilled off and the reaction product was crystallized from methanol to yield 2-chloro-4-nitrobenzonitrile (145 g, 79%, mp 73°-75° C.).

reactant | Thionyl chloride | 1,000 g | S(=O)(Cl)Cl | Cl2OS
reactant | 2-chloro-4-nitrobenzamide | 200 g | ClC1=C(C(=O)N)C=CC(=C1)[N+](=O)[O-] | C7H5ClN2O3
solvent | Benzene | 500 ml | C1=CC=CC=C1 | C6H6
product | 2-chloro-4-nitrobenzonitrile | 145 g, 79% | ClC1=C(C#N)C=CC(=C1)[N+](=O)[O-] | C7H3ClN2O2
